US07037938B2
To a solution of tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][2-[4-[(4-hydroxyphenyl)thio]phenyl]ethyl]-carbamate (195 mg) and potassium carbonate (59 mg) in N,N-dimethylformamide (3 ml) was added tert-butyl bromoacetate (84 mg), and the mixture was stirred at room temperature for 3 hours. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=3/1) to give tert-butyl [4-[[4-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]phenyl]thio]-phenoxy]acetate (168 mg).

reactant | tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][2-[4-[(4-hydroxyphenyl)thio]phenyl]ethyl]-carbamate | 195 mg | ClC=1C=C(C=CC1)[C@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)SC1=CC=C(C=C1)O)O | C27H30ClNO4S
reactant | potassium carbonate | 59 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 84 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | tert-butyl [4-[[4-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]phenyl]thio]-phenoxy]acetate | 168 mg | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C=C1)SC1=CC=C(OCC(=O)OC(C)(C)C)C=C1)C[C@H](O)C1=CC(=CC=C1)Cl | C33H40ClNO6S
